US07696240B2
3-[(Benzyl-methyl-amino)-methyl]-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 3-[(benzyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester (Lit. 4) was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a pale yellow solid. MS: 433.4 ([M−H]−).

reactant | 3-[(benzyl-methyl-amino)-methyl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1CN(C)CC1=CC=CC=C1 | C20H22N2O2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-[(Benzyl-methyl-amino)-methyl]-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N(C)CC1=C(N(C2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)C(=O)O | C29H26N2O2
